US08431695B2
Step 3: Preparation of tert-butyl 3-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)piperidine-1-carboxylate
To a dry flask purged with N2 was added platinum (IV) oxide (150 mg, 0.66 mmol) followed by tert-butyl 5-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)-3,4-dihydropyridine-1(2H)-carboxylate (2.09 mg, 6.63 mmol) as a solution in acetic acid (60 mL). The mixture was stirred under an H2 atmosphere for 64 h. The mixture was filtered through a pad of Celite® rinsing with acetic acid and EtOH. The solvent was evaporated under reduced pressure and the residue was dissolved in ethyl acetate (200 mL). The organic mixture was washed with saturated, aqueous NaHCO3 (200 mL) followed by brine, and was dried (Na2SO4) and concentrated to dryness to afford 1.60 g (76%) of the desired product. ES-MS m/z 318.22 [M+H]+, HPLC RT (min) 2.43.

reactant | tert-butyl 5-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)-3,4-dihydropyridine-1(2H)-carboxylate | 6.63 mmol, 2.09 mg | NC1=NC=NN2C1=CC=C2C=2CCCN(C2)C(=O)OC(C)(C)C | C16H21N5O2
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
catalyst | platinum (IV) oxide | 0.66 mmol, 150 mg | [Pt](=O)=O
product | tert-butyl 3-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)piperidine-1-carboxylate | 1.60 g, 76% | NC1=NC=NN2C1=CC=C2C2CN(CCC2)C(=O)OC(C)(C)C | C16H23N5O2
